US04276226
2,6-Naphthalenedicarboxylic acid (108 g, 0.50 mole) and 2,6-dimethylphenol (122 g, 1.00 mole) were charged to a one-liter Hastalloy C® shaker tube. The tube was cooled and charged with hydrogen fluoride (400 g) and boron trifluoride (150 g). It was then heated to 50° C. and shaken for 4 hr at 50° C. The tube was cooled and vented, and the contents, a red solid in a red solution, was allowed to evaporate in the hood. The resulting red solid was stirred in 2 l. of water, warmed, and isolated by filtration of the warm solution. The precipitate was stirred with 2 l. of water, warmed, and neutralized with sodium bicarbonate. The warm mixture was filtered and the precipitate was washed with water, then methanol, and air dried. There was obtained 192.5 g (91%) of crude 2,6-bis(3,5-dimethyl-4-hydroxybenzoyl)naphthalene as an orange powder. 2,6-Bis(4-acetoxy-3,5-dimethylbenzoyl)naphthalene, the diacetate of the above diol was prepared in a manner generally similar to that of Example 2. It had a m.p. (differential scanning calorimetry) of 302° C., and its elemental analysis is consistent with the formula C32H28O6.

reactant | 2,6-Naphthalenedicarboxylic acid | 0.50 mole, 108 g | C1=C(C=CC2=CC(=CC=C12)C(=O)O)C(=O)O | C12H8O4
reactant | 2,6-dimethylphenol | 1.00 mole, 122 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | hydrogen fluoride | 400 g | F | FH
reactant | boron trifluoride | 150 g | B(F)(F)F | BF3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 2,6-bis(3,5-dimethyl-4-hydroxybenzoyl)naphthalene | 192.5 g, 91% | CC=1C=C(C(=O)C2=CC3=CC=C(C=C3C=C2)C(C2=CC(=C(C(=C2)C)O)C)=O)C=C(C1O)C | C28H24O4
